US07189736B2
5. (7R,8R,9R)-7-(2-Methoxyethoxy)-2,3-dimethyl-9-phenyl-8-propionyloxy-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine
A mixture of 2 g of (7R,8R,9R)-8-hydroxy-7-(2-methoxyethoxy)-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine and 24 ml of propionic anhydride is heated at 60° C. for 6 h, poured onto ice water after cooling, adjusted to pH 7.5 using dilute aqueous sodium hydroxide solution and extracted three times with 50 ml of ethyl acetate each time, the collected organic phases are dried over potassium carbonate and the volatile components are stripped off in vacuo. The oily residue which remains is intensively dried in a high vacuum and then triturated with a little cyclohexane. 1.2 g of the title compound are obtained as colorless crystals of melting point 106–7° C. (cyclohexane).

reactant | (7R,8R,9R)-8-hydroxy-7-(2-methoxyethoxy)-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | 2 g | O[C@@H]1[C@H](NC=2C=3N(C=CC2[C@H]1OCCOC)C(=C(N3)C)C)C3=CC=CC=C3 | C21H25N3O3
reactant | propionic anhydride | 24 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | sodium hydroxide | [OH-].[Na+]
product | (7R,8R,9R)-7-(2-Methoxyethoxy)-2,3-dimethyl-9-phenyl-8-propionyloxy-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | 1.2 g | COCCO[C@H]1[C@@H]([C@H](NC=2C=3N(C=CC12)C(=C(N3)C)C)C3=CC=CC=C3)OC(CC)=O | C24H29N3O4
